US03953477
N-tetrahydrofurfuryl-3,5-dimethylbenzamide
A mixture was formed containing 3.0 grams (0.03 moles) of tetrahydrofurfurylamine, 4.5 ml. triethylamine in 100 ml. benzene. Then, 3.7 ml. (0.25 moles) of 3,5-dimethylbenzoylchloride was added. After standing for 1/2 hour, the mixture was washed with 100 ml. of water, 1 normal HCl (50 ml.), 50 ml. of saturated sodium bicarbonate dried over magnesium sulfate and evaporated in vacuo to yield 4.4 grams of product ND30 1.5366.

reactant | tetrahydrofurfurylamine | 0.03 moles, 3.0 grams | C(C1CCCO1)N | C5H11NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethylbenzoylchloride | 0.25 moles | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-tetrahydrofurfuryl-3,5-dimethylbenzamide | 4.4 grams | C(C1CCCO1)NC(C1=CC(=CC(=C1)C)C)=O | C14H19NO2
